US05177078
(R)-[1-(2-Methoxyphenyl)-4-(2-phenyl-2-hydroxyethyl)piperazine]
2-Methoxyphenylpiperazine (19.84 g, 0.103 m) in dry acetonitrile (150 ml) was refluxed with (R)-styrene oxide (12.4 g, 0.104 m). The residue on evaporation was chromatographed on silica using ethyl acetate as eluant to give two main fractions. The first fraction (4.3 g) contained some styrene oxide, which was removed by acid-base extraction to give 3.55 g of pure title compound. The second fraction (9.5 g) was 95% title compound and approximately 5% of the regioisomer.

reactant | 2-Methoxyphenylpiperazine | 19.84 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | (R)-styrene oxide | 12.4 g | C1[C@@H](C2=CC=CC=C2)O1 | C8H8O
reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (R)-[1-(2-Methoxyphenyl)-4-(2-phenyl-2-hydroxyethyl)piperazine] | 3.55 g | COC1=C(C=CC=C1)N1CCN(CC1)C[C@H](O)C1=CC=CC=C1 | C19H24N2O2
